US07115784B2
Preparation of N-phenylacetamide at 60° C. for 4 h
A 15 mL resealable Schlenk tube was charged with CuI (10 mg, 0.0525 mmol, 5.0 mol %), acetamide (170 mg, 2.88 mmol), K3PO4 (450 mg, 2.12 mmol), evacuated and backfilled with argon. trans-N,N′-Dimethyl-1,2-cyclohexanediamine (17 μL, 0.108 mmol, 10 mol %), iodobenzene (115 μL, 1.03 mmol) and toluene (1.0 mL) were added under argon. The Schlenk tube was sealed with a Teflon valve and the reaction mixture was stirred at 60° C. for 4 h. After the resulting suspension was allowed to reach room temperature, ethyl acetate (1 mL) and dodecane (235 μL, internal GC standard) were added. GC analysis indicated 100% yield of the desired product.

reactant | acetamide | 2.88 mmol, 170 mg | C(C)(=O)N | C2H5NO
reactant | K3PO4 | 2.12 mmol, 450 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | trans-N,N′-Dimethyl-1,2-cyclohexanediamine | 0.108 mmol, 17 μL | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | iodobenzene | 1.03 mmol, 115 μL | IC1=CC=CC=C1 | C6H5I
reactant | dodecane | 235 μL | CCCCCCCCCCCC | C12H26
catalyst | CuI | 0.0525 mmol, 10 mg | [Cu]I
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene | 1.0 mL | C1(=CC=CC=C1)C | C7H8
product | N-phenylacetamide | 100% yield | C1(=CC=CC=C1)NC(C)=O | C8H9NO
